US20010003749A1
Preparation of the final title compound, 1-(2-methoxyphenyl)-4-[3-(cyclohexanecarbonyl)-3-(phenyl)butyl]piperazine
3-Phenyl-3-cyclohexanecarbonyl-butan-1-al (57.8 g, 224 mmol) was dissolved in methylene chloride (1650 mL) followed by addition of 1-(2-methoxyphenyl)piperazine hydrochloride (56.3 g, 246 mmol). Acetic acid (41 mL) may optionally be added to turn the slurry into a solution. To the stirred solution, sodium triacetoxyborohydride (60.3 g, 284 mmol)was slowly added. A slight exotherm resulted and a slurry was produced. The reaction mixture was stirred for an additional 3 hours at room temperature. The reaction was then quenched by addition of 2.0 N sodium hydroxide (1050 mL) producing a pH of about 10 for the quenched reaction mixture. The mixture was then extracted with methylene chloride (2 times, 1 L and 300 mL). The organic extracts were combined, washed successively with 1.0 N HCl (600 mL), 1.0 N sodium hydroxide (600 mL), brine (600 mL), dried over anhydrous magnesium sulfate, filtered and concentrated under vacuum to provide the final title compound as a thick oil;

reactant | 3-Phenyl-3-cyclohexanecarbonyl-butan-1-al | 224 mmol, 57.8 g | C1(=CC=CC=C1)C(CC=O)(C)C(=O)C1CCCCC1 | C17H22O2
reactant | 1-(2-methoxyphenyl)piperazine hydrochloride | 246 mmol, 56.3 g | Cl.COC1=C(C=CC=C1)N1CCNCC1
reactant | Acetic acid | 41 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 284 mmol, 60.3 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | methylene chloride | 1650 mL | C(Cl)Cl | CH2Cl2
product | 1-(2-methoxyphenyl)-4-[3-(cyclohexanecarbonyl)-3-(phenyl)butyl]piperazine | COC1=C(C=CC=C1)N1CCN(CC1)CCC(C)(C1=CC=CC=C1)C(=O)C1CCCCC1 | C28H38N2O2
